US06162927
Methyl 3,3-dimethyl-3-(1,3-dioxolan-2-yl)propanoate
Methyl 3,3-dimethyl-4-oxobutanoate (10 g, 70 mmol), prepared according to the procedure of Hudlicky et al., Synth. Commun., 16 169 (1986), was dissolved in 40 mL of benzene, followed by addition of ethylene glycol (20 mL), and p-toluenesulfonic acid monohydrate (1.3 g). The reaction was refluxed with azeotropic removal of water for 1 hour. The reaction was poured into 200 mL of ether, washed with saturated sodium bicarbonate, water and brine, dried with anhydrous magnesium sulfate, filtered, and the solvent was removed under reduced pressure to give 12.4 g (94%) of the title compound.

reactant | Methyl 3,3-dimethyl-4-oxobutanoate | 70 mmol, 10 g | CC(CC(=O)OC)(C=O)C | C7H12O3
reactant | ethylene glycol | 20 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 1.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
solvent | ether | 200 mL | CCOCC | C4H10O
product | Methyl 3,3-dimethyl-3-(1,3-dioxolan-2-yl)propanoate | 12.4 g, 94% | CC(CC(=O)OC)(C1OCCO1)C | C9H16O4
